US07829580B2
(d) (E)-3-({1-[2-(Methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol
(E)-3-({1-[2-(Methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one (12.87 g) was dissolved in a mixed solvent of dichloromethane (100 ml) and methanol (100 ml). While the solution was being stirred at 0° C., sodium borohydride (480 mg) was added thereto. The resulting mixture was stirred at 0° C. for 30 minutes, and the reaction was stopped by addition of a saturated aqueous ammonium chloride solution. The product was extracted with dichloromethane. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to afford the crude title compound (13.22 g) as a pale yellow amorphous solid. This product was used in the next process without further purification.

reactant | (E)-3-({1-[2-(Methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one | 12.87 g | COC(=O)CCN1N=NC=C1\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H30N4O3
reactant | sodium borohydride | 480 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | (E)-3-({1-[2-(Methoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | 13.22 g | COC(=O)CCN1N=NC=C1\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H32N4O3
